* ============================================================================
* ch07-lfo.cir — Low-frequency oscillator (scaled VCO core)
* ============================================================================
* Same integrator + Schmitt topology as the VCO (ch04), but:
*   - Larger timing capacitor (or smaller charge current)
*   - Rate range ≈ 0.05 Hz … 30 Hz (sub-audio)
*   - Outputs: triangle + square (bipolar ±5 V typical)
*
* Optional (not required for this course): sample-and-hold driven by the
* square wave + noise source → stepped random CV.
*
*         Rate pot → sets Icharge or R
*              |
*              v
*           [integrator] --> Triangle Out
*                |
*            [Schmitt] ----> Square / pulse Out
*
* Verification: period T = 1/f matches RC (or I/C) math at min and max rate.
* ============================================================================

.TITLE ch07 LFO

VDD vdd 0 DC 12
VSS vss 0 DC -12

* Example: 1 Hz triangle / square
VTRI tri 0 SIN(0 5 1 0 0 90) 
* (phase 90° makes a cosine≈triangle approximation for demo; rebuild as
* true integrator+Schmitt on the Qucs-S schematic)
VSQ  sq  0 PULSE(-5 5 0 1m 1m 0.5 1)

.TRAN 1m 5
.PRINT TRAN V(tri) V(sq)
.END
